US09328111B2
Step 2: Methyl 4-bromo-7,7-dimethyl-9-oxo-5,6,7,8,9,10-hexahydroacridine-1-carboxylate
A mixture of methyl 2-hydroxy-5,5-dimethylcyclohex-1-enecarboxylate (26 g, 0.141 mol), methyl 3-amino-4-bromobenzoate (25 g, 0.109 mol), polyphosphoric acid (220 g) and dioxane (220 mL) was heated at 130° C. for 5 hours. After cooling, the mixture was diluted with water. The resulting precipitate was collected by filtration and dried. The solid was suspended in methanol (400 mL), and TMSCl (90 mL) was added. The mixture was stirred at reflux for 5 hours, concentrated and treated with water (80 mL), extracted with ethyl acetate (250 mL). The organic layer was separated, concentrated and recrystallized with methanol to afford desired compound (10.6 g, 27%). 1H NMR (DMSO-d6) δ 10.32 (s, 1H), 7.98 (d, 1H, J=7.2 Hz), 7.10 (d, 1H, J=7.2 Hz), 3.80 (s, 3H), 2.90 (t, 2H, J=6.6 Hz), 2.22 (s, 2H), 1.56 (t, 2H, J=6.6 Hz), and 0.97 (s, 6H). MS (ESI) m/e [M+1]+364.

reactant | methyl 2-hydroxy-5,5-dimethylcyclohex-1-enecarboxylate | 0.141 mol, 26 g | OC1=C(CC(CC1)(C)C)C(=O)OC | C10H16O3
reactant | methyl 3-amino-4-bromobenzoate | 0.109 mol, 25 g | NC=1C=C(C(=O)OC)C=CC1Br | C8H8BrNO2
reactant | dioxane | 220 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | Methyl 4-bromo-7,7-dimethyl-9-oxo-5,6,7,8,9,10-hexahydroacridine-1-carboxylate | 10.6 g, 27% | BrC1=CC=C(C=2C(C=3CC(CCC3NC12)(C)C)=O)C(=O)OC | C17H18BrNO3
